US08133882B2
Under ice-cooling, 3.2 ml of n-butyl lithium (1.60 M hexane solution) was added to a 2.4 ml THF solution of 0.58 ml benzyl alcohol, followed by stirring for 1 hour. The solvent was evaporated under a reduced pressure, followed by the addition of 8.0 ml of toluene for suspension. The suspension prepared was added to a toluene suspension of 400 mg of 7-(cyclohexylamino)-1-cyclopentyl-5,6-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, which was prepared in a separate container, followed by stirring at room temperature for 6 hours. Then, 1 M hydrochloric acid was added to the reaction mixture, followed by extraction with chloroform and washing with aqueous saturated sodium chloride. After drying over anhydrous sodium sulfate and subsequent filtration, the solvent was evaporated under a reduced pressure. By recrystallizing the resulting residue using ethyl acetate, 400 mg of 5-(benzyloxy)-7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid was obtained.

reactant | n-butyl lithium | 1.60 M, 3.2 ml | C(CCC)[Li]
reactant | benzyl alcohol | 0.58 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 7-(cyclohexylamino)-1-cyclopentyl-5,6-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 400 mg | C1(CCCCC1)NC1=C(C(=C2C(C(=CN(C2=C1)C1CCCC1)C(=O)O)=O)F)F | C21H24F2N2O3
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2.4 ml | C1CCOC1 | C4H8O
product | 5-(benzyloxy)-7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 400 mg | C(C1=CC=CC=C1)OC1=C2C(C(=CN(C2=CC(=C1F)NC1CCCCC1)C1CCCC1)C(=O)O)=O | C28H31FN2O4
